US08426411B2
A round bottom flask was charged with ethyl 8-ethyl-1,4-dioxaspiro[4.4]nonane-7-carboxylate (0.32 g, 1.4 mmol) and aqueous 1 N sodium hydroxide (14.0 mL, 14.0 mmol). The solution was stirred overnight at rt. To the solution was added DCM (30 mL) followed by the addition of 20% aqueous citric acid (about 20 mL) to reach pH of about 2. The layers were separated and the aqueous solution was extracted with DCM (2×30 mL) and DCM/EtOAc (1:1, 30 mL). The combined extracts were dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give 8-ethyl-1,4-dioxaspiro[4.4]nonane-7-carboxylic acid as a clear, colorless oil (0.27 g, 96%): LC/MS (Table 1, Method c) Rt=1.20 min; MS m/z: 201 (M+H)+.

reactant | ethyl 8-ethyl-1,4-dioxaspiro[4.4]nonane-7-carboxylate | 1.4 mmol, 0.32 g | C(C)C1C(CC2(OCCO2)C1)C(=O)OCC | C12H20O4
reactant | sodium hydroxide | 14.0 mmol, 1 N, 14.0 mL | [OH-].[Na+]
reactant | citric acid | about 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 8-ethyl-1,4-dioxaspiro[4.4]nonane-7-carboxylic acid | C(C)C1C(CC2(OCCO2)C1)C(=O)O | C10H16O4
